US06130228
1-(4-Fluorophenyl)-1, 4-dihydro-indeno [1, 2-c] pyrazole (Intermediate Leading to Compound 34)
2-Hydroxymethylene indan-1-one, (Example 1(ii) (a) (4.004 g; 250 mmol), p-fluorophenyl hydrazine hydrochloride (Aldrich) (4.106 g; 25.25 mmol) 10M hydrochloric acid (1 cm3) and ethanol (30 cm3), were heated under reflux for 19 hours. After cooling, the solvent was evaporated under reduced pressure, then taken up in dichloromethane and washed with 2M NaOH. The organic layer was separated, dried (Na2SO4), filtered and concentrated in vacuo. Purification by Kugelrohr distillation (140° C.; 0.01 mmHg) afforded a yellow solid, m.p. 104-105° C.

reactant | 2-Hydroxymethylene indan-1-one | OC=C1C(C2=CC=CC=C2C1)=O | C10H8O2
reactant | p-fluorophenyl hydrazine hydrochloride | 25.25 mmol, 10M, 4.106 g | Cl.FC1=CC=C(C=C1)NN
reactant | hydrochloric acid | 1 cm3 | Cl | ClH
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | 1-(4-Fluorophenyl)-1, 4-dihydro-indeno [1, 2-c] pyrazole | FC1=CC=C(C=C1)N1N=CC2=C1C1=CC=CC=C1C2 | C16H11FN2
